US07935709B2
To a stirred solution of 3-(1-(2-chlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.1233 g, 285 μmol) in DCM was added DDQ (71 mg, 314 μmol) and the resulting dark-colored mixture was stirred at RT for 3 h. The reaction was quenched with NaHCO3(aq) and water (10 mL each) and the separated aqueous layer was extracted with 5% MeOH in DCM (3×6 mL). The combined organic layers were washed with, 1N NaOH(aq), brine, dried (Na2SO4), and concentrated to give the crude residue. Flash column chromatographic purification (5% MeOH in DCM) of the crude residue followed by washing the concentrated pure product fractions with ethyl acetate provided N-cyclopropyl-4-chloro-3-(2-oxo-1-o-tolyl-1,2-dihydroquinazolin-6-yl)benzamide as a white solid. MS m/e 430 (M+H)+.

reactant | 3-(1-(2-chlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-6-yl)-N-cyclopropyl-4-methylbenzamide | 285 μmol, 0.1233 g | ClC1=C(C=CC=C1)N1C(NCC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C25H22ClN3O2
reactant | DDQ | 314 μmol, 71 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | DCM | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-4-chloro-3-(2-oxo-1-o-tolyl-1,2-dihydroquinazolin-6-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)Cl)C=1C=C2C=NC(N(C2=CC1)C1=C(C=CC=C1)C)=O)=O | C25H20ClN3O2
